US04089861
5.0 G. of enriched (-)-(R)-3-{2-[4-(8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]ethyl}-2-oxazolidinone αD20 = -9.5°; α365 = +125.0° (chloroform; c = 2.50%)] are heated under reflux for 18 hours with stirring in 81 ml. of 0.5-M methanesulfonic acid and the mixture is subsequently treated with benzene. The organic phase is washed with water, dried over sodium sulfate and evaporated. The residue is crystallized from n-hexane, and there is obtained racemic 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol having a melting point of 89.5°-90° C. The yield is 97%. This compound can be converted in accordance with the procedure described in Example 1 into the 10-chloro compound which can subsequently be used in Example 1 or 11.

reactant | (-)-(R)-3-{2-[4-(8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]ethyl}-2-oxazolidinone | FC=1C=CC2=C([C@@H](CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H28FN3O2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | racemic 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol | yield is 97% | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)O)C1 | C15H13FOS
